US08017604B2
Step 5: 6-Cyclopropyl-2-phenyl-imidazo[1,2-a]pyridin-7-ylamine
Trifluoroacetic acid (1.5 ml) was added to a solution of (6-cyclopropyl-2-phenyl-imidazo[1,2-a]pyridin-7-yl)-carbamic acid tert-butyl ester (470 mg, 1.35 mmol) in dichloromethane (3 ml), and the mixture was stirred at r.t. (1 h). The mixture was then taken up in dichloromethane and washed. The organic layers were dried (Na2SO4) and evaporated. The title compound (204 mg, 61%) was isolated from the residue by column chromatography (silica gel, dichloromethane:methanol=100:0-90:10). MS (m/e)=250.1 [M+H+].

reactant | Trifluoroacetic acid | 1.5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | (6-cyclopropyl-2-phenyl-imidazo[1,2-a]pyridin-7-yl)-carbamic acid tert-butyl ester | 1.35 mmol, 470 mg | C(C)(C)(C)OC(NC1=CC=2N(C=C1C1CC1)C=C(N2)C2=CC=CC=C2)=O | C21H23N3O2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 6-Cyclopropyl-2-phenyl-imidazo[1,2-a]pyridin-7-ylamine | 204 mg, 61% | C1(CC1)C=1C(=CC=2N(C1)C=C(N2)C2=CC=CC=C2)N | C16H15N3
